US07247727B2
To a suspension of 3-chloro-4-fluorobenzylamine (2.5 g, 15.66 mmol) and Rhodanine (2 g, 15 mmol) in acetonitrile (50 mL) was added DIPEA (5.57 mL, 32 mmol) at room temperature. Then, this solution was cooled to 0° C. and mercuric chloride (4.34 g, 16 mmol) was added in two portions within a period of 10 min. After addition, the suspension was allowed to warm to room temperature and stirred for 2 days. The resulting black solids were filtered through a plug of celite and washed with dichloromethane (200 mL) and methanol (500 mL). The combined solvents were removed under the vacuum and the crude residue was diluted with water (150 mL) and ethyl acetate (150 mL). The two layers were separated and the aqueous layer was extracted with ethyl acetate (2×100 mL). The combined organic extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and removal of the partial solvent under the vacuum gave lot of solids. After cooling in the refrigerator, the solids were collected by filtration and washed with cold ethyl acetate. After drying in air, 2.5 g (64% yield) of 2-(3-chloro-4-fluorobenzylamino)-thiazol-4-one was isolated as a white amorphous solid: EI-HRMS m/e calcd for C10H8ClFN2OS (M+) 258.0030. found 258.0029.

reactant | 3-chloro-4-fluorobenzylamine | 15.66 mmol, 2.5 g | ClC=1C=C(CN)C=CC1F | C7H7ClFN
reactant | Rhodanine | 15 mmol, 2 g | S1C(=S)NC(=O)C1 | C3H3NOS2
reactant | DIPEA | 32 mmol, 5.57 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 2-(3-chloro-4-fluorobenzylamino)-thiazol-4-one | 2.5 g, 64% yield | ClC=1C=C(CNC=2SCC(N2)=O)C=CC1F | C10H8ClFN2OS
